US05294734
0.5 g (1.0 mmol) of 8-(N-benzyloxycarbonylamino)-4-diethylphosphonomethyl-2-formylamino-oct-3-enoic acid methyl ester is heated under reflux in 5.0 ml of 6N hydrochloric acid for 6 hours. Concentration to dryness by evaporation yields 2,8-diamino-4-phosphonomethyl-oct-3-enoic acid dihydrochloride in the form of a rubber-like solid which is recrystallised from acetonitrile; m.p. 128° (decomp.).

reactant | 8-(N-benzyloxycarbonylamino)-4-diethylphosphonomethyl-2-formylamino-oct-3-enoic acid methyl ester | 1.0 mmol, 0.5 g | COC(C(C=C(CCCCNC(=O)OCC1=CC=CC=C1)CP(=O)(OCC)OCC)NC=O)=O | C23H35N2O8P
reactant | hydrochloric acid | 6N, 5.0 ml | Cl | ClH
product | 2,8-diamino-4-phosphonomethyl-oct-3-enoic acid dihydrochloride | Cl.Cl.NC(C(=O)O)C=C(CCCCN)CP(=O)(O)O | InChI=1S/C9H19N2O5P.2ClH/c10-4-2-1-3-7(6-17(14,15)16)5-8(11)9(12)13;;/h5,8H,1-4,6,10-11H2,(H,12,13)(H2,14,15,16);2*1H
